US06407138B1
About 7.00 grams of water used to dissolve 86.5 grams of glycine and 70 grams of DL-methionine. Next, 47 grams of calcium oxide, which was 70% calcium by weight, was added. The solution was continually stirred until all of the calcium oxide appeared to be dissolved. The reaction formed a calcium bisglycinate chelate or complex solution.

reactant | glycine | 86.5 grams | NCC(=O)O | C2H5NO2
reactant | DL-methionine | 70 grams | NC(CCSC)C(=O)O | C5H11NO2S
reactant | calcium oxide | 47 grams | [O-2].[Ca+2]
reactant | calcium | [Ca] | Ca
solvent | water | 7.00 grams | O | H2O
product | calcium bisglycinate | NCC(=O)[O-].NCC(=O)[O-].[Ca+2] | InChI=1S/2C2H5NO2.Ca/c2*3-1-2(4)5;/h2*1,3H2,(H,4,5);/q;;+2/p-2
